US09422281B2
A 100-mL round bottomed flask equipped with a magnetic stir bar was charged with ammonium chloride (0.044 g, 0.820 mmol), water (8.2 mL), iron powder (4.58 g, 82 mmol), and ethanol (21.8 mL). The mixture was heated to 80° C., and a solution of (R)-1-(benzyl(6-bromo-3-nitropyridin-2-yl)amino)propan-2-ol (3.00 g, 8.2 mmol) in ethanol (8.20 mL) was slowly added over 2 min. The reaction mixture was stirred at 80° C. After 90 min, heating was discontinued and the reaction mixture filtered through a pad of Celite. The flask and Celite pad were rinsed with ethanol. The filtrate was concentrated. The residue was then partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution (20 mL). The ethyl acetate layer was washed with 5% aqueous sodium chloride solution (20 mL) and concentrated under reduced pressure to afford crude (R)-1-((3-amino-6-bromopyridin-2-yl)(benzyl)amino)propan-2-ol (2.22 g) as a dark syrup. MS (ESI, pos. ion) m/z 336, 338 [M+1]+.

reactant | ammonium chloride | 0.820 mmol, 0.044 g | [Cl-].[NH4+]
reactant | water | 8.2 mL | O | H2O
reactant | (R)-1-(benzyl(6-bromo-3-nitropyridin-2-yl)amino)propan-2-ol | 8.2 mmol, 3.00 g | C(C1=CC=CC=C1)N(C[C@@H](C)O)C1=NC(=CC=C1[N+](=O)[O-])Br | C15H16BrN3O3
solvent | ethanol | 8.20 mL | C(C)O | C2H6O
catalyst | iron | 82 mmol, 4.58 g | [Fe] | Fe
solvent | ethanol | 21.8 mL | C(C)O | C2H6O
product | (R)-1-((3-amino-6-bromopyridin-2-yl)(benzyl)amino)propan-2-ol | 2.22 g | NC=1C(=NC(=CC1)Br)N(C[C@@H](C)O)CC1=CC=CC=C1 | C15H18BrN3O
